US07834021B2
8-(3-Methyl-isothiazol-5-yl)-1,4-dioxa-spiro[4.5]decan-8-ol.
At −78° C., 1.5 M of n-butyllithium in hexane (6.7 mL) was slowly added to a solution of 3-methylisothiazole (1.0 g, 0.010 mol) in tetrahydrofuran (15 mL) over a period of 20 min. After being stirred for another 30 min, 1,4-dioxa-spiro[4.5]decan-8-one (1.56 g, 0.00999 mol) in tetrahydrofuran (5 mL) was added within 10 min. The reaction mixture was stirred for another 2 hour at −78° C. and allowed to warm up overnight to room temperature. After quenching with with brine, the mixture was extracted with EtOAc. The organic layer was dried and concentrated. Chromatography on silica gel eluting with hexane/EtOAc (1:5˜1:1) provided 1.8 g (70.6%) of the title compound. MS (M+H)+ 256.

reactant | n-butyllithium | 1.5 M | C(CCC)[Li]
reactant | 3-methylisothiazole | 0.010 mol, 1.0 g | CC1=NSC=C1 | C4H5NS
reactant | 1,4-dioxa-spiro[4.5]decan-8-one | 0.00999 mol, 1.56 g | O1CCOC12CCC(CC2)=O | C8H12O3
solvent | hexane | 6.7 mL | CCCCCC | C6H14
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 8-(3-Methyl-isothiazol-5-yl)-1,4-dioxa-spiro[4.5]decan-8-ol | 1.8 g, 70.6% | CC1=NSC(=C1)C1(CCC2(OCCO2)CC1)O | C12H17NO3S
